US07625889B2
Step 1: 4-Oxo-piperidine-1-carboxylic acid-2-trimethylsilanyl-ethyl ester:
Carbonic acid 4-nitro-phenyl ester-2-trimethylsilanyl-ethyl ester (8.33 g, 29.3 mmol), triethylamine (12.3 g, 122 mmol) and DMAP (3.6 g, 29.5 mmol) were added to a room temperature solution of 4-piperidone hydrochloride (4.52 g, 33.4 mmol) in 100 mL of acetonitrile. The resulting mixture was heated at reflux for 2 h, then cooled and the volatiles were removed in vacuo. The residue was dissolved in dichloromethane, washed with water and 1M NaOH solution, and concentrated in vacuo to leave 6.3 g of product.

reactant | Carbonic acid 4-nitro-phenyl ester-2-trimethylsilanyl-ethyl ester | 29.3 mmol, 8.33 g | C[Si](CCOC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(C)C | C12H17NO5Si
reactant | triethylamine | 122 mmol, 12.3 g | C(C)N(CC)CC | C6H15N
reactant | 4-piperidone hydrochloride | 33.4 mmol, 4.52 g | Cl.N1CCC(CC1)=O
catalyst | DMAP | 29.5 mmol, 3.6 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-Oxo-piperidine-1-carboxylic acid-2-trimethylsilanyl-ethyl ester | 6.3 g | C[Si](CCOC(=O)N1CCC(CC1)=O)(C)C | C11H21NO3Si
